* SANGHUN

**********************************************************************
**	MyChip Station MyLVS Pro 2017
**	Copyright(c) 1992-2017 MyCAD, Inc.
**			
**********************************************************************

*.GLOBAL C0 C1 C2 CLK D_CLK GND:G O_CLK VDD:P 

**********************************************************************
**  Beginning of device list
**********************************************************************

M1	2	11	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M10	5	13	24	VDD	PMOS	L=4e-007	W=2.4e-006	
M100	GND	20	61	GND	NMOS	L=4e-007	W=2.4e-006	
M11	VDD	3	45	VDD	PMOS	L=4e-007	W=2.4e-006	
M12	5	23	C1	VDD	PMOS	L=4e-007	W=2.4e-006	
M13	26	CLK	45	VDD	PMOS	L=4e-007	W=2.4e-006	
M14	VDD	5	48	VDD	PMOS	L=4e-007	W=2.4e-006	
M15	7	14	VDD	VDD	PMOS	L=4e-007	W=7.2e-006	
M16	VDD	4	48	VDD	PMOS	L=4e-007	W=2.4e-006	
M17	VDD	48	27	VDD	PMOS	L=4e-007	W=2.4e-006	
M18	VDD	7	13	VDD	PMOS	L=4e-007	W=2.4e-006	
M19	6	27	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M2	3	12	VDD	VDD	PMOS	L=4e-007	W=7.2e-006	
M20	VDD	3	14	VDD	PMOS	L=4e-007	W=1.2e-006	
M21	VDD	6	16	VDD	PMOS	L=4e-007	W=2.4e-006	
M22	VDD	7	50	VDD	PMOS	L=4e-007	W=2.4e-006	
M23	VDD	8	28	VDD	PMOS	L=4e-007	W=2.4e-006	
M24	29	3	50	VDD	PMOS	L=4e-007	W=2.4e-006	
M25	VDD	28	30	VDD	PMOS	L=4e-007	W=2.4e-006	
M26	8	15	VDD	VDD	PMOS	L=4e-007	W=7.2e-006	
M27	VDD	30	31	VDD	PMOS	L=4e-007	W=2.4e-006	
M28	VDD	31	32	VDD	PMOS	L=4e-007	W=2.4e-006	
M29	9	8	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M3	VDD	C0	21	VDD	PMOS	L=4e-007	W=2.4e-006	
M30	VDD	32	33	VDD	PMOS	L=4e-007	W=2.4e-006	
M31	VDD	33	34	VDD	PMOS	L=4e-007	W=2.4e-006	
M32	VDD	7	15	VDD	PMOS	L=4e-007	W=1.2e-006	
M33	VDD	34	35	VDD	PMOS	L=4e-007	W=2.4e-006	
M34	VDD	8	53	VDD	PMOS	L=4e-007	W=2.4e-006	
M35	VDD	35	O_CLK	VDD	PMOS	L=4e-007	W=2.4e-006	
M36	37	7	53	VDD	PMOS	L=4e-007	W=2.4e-006	
M37	VDD	C2	38	VDD	PMOS	L=4e-007	W=2.4e-006	
M38	VDD	18	39	VDD	PMOS	L=4e-007	W=7.2e-006	
M39	VDD	38	19	VDD	PMOS	L=4e-007	W=2.4e-006	
M4	4	11	21	VDD	PMOS	L=4e-007	W=2.4e-006	
M40	VDD	8	19	VDD	PMOS	L=4e-007	W=2.4e-006	
M41	VDD	39	D_CLK	VDD	PMOS	L=4e-007	W=2.4e-006	
M42	VDD	C2	20	VDD	PMOS	L=4e-007	W=2.4e-006	
M43	VDD	16	18	VDD	PMOS	L=4e-007	W=1.2e-006	
M44	VDD	9	20	VDD	PMOS	L=4e-007	W=2.4e-006	
M45	VDD	41	56	VDD	PMOS	L=4e-007	W=2.4e-006	
M46	VDD	19	41	VDD	PMOS	L=4e-007	W=2.4e-006	
M47	42	16	56	VDD	PMOS	L=4e-007	W=2.4e-006	
M48	VDD	20	41	VDD	PMOS	L=4e-007	W=2.4e-006	
M49	2	11	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M5	4	2	C0	VDD	PMOS	L=4e-007	W=2.4e-006	
M50	3	CLK	43	GND	NMOS	L=4e-007	W=2.4e-006	
M51	21	C0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M52	43	12	GND	GND	NMOS	L=4e-007	W=2.4e-006	
M53	4	2	21	GND	NMOS	L=4e-007	W=1.2e-006	
M54	4	11	C0	GND	NMOS	L=4e-007	W=1.2e-006	
M55	11	3	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M56	23	13	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M57	12	26	44	GND	NMOS	L=4e-007	W=4.8e-006	
M58	24	C1	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M59	44	CLK	GND	GND	NMOS	L=4e-007	W=4.8e-006	
M6	VDD	3	11	VDD	PMOS	L=4e-007	W=2.4e-006	
M60	5	23	24	GND	NMOS	L=4e-007	W=1.2e-006	
M61	5	13	C1	GND	NMOS	L=4e-007	W=1.2e-006	
M62	26	3	GND	GND	NMOS	L=4e-007	W=2.4e-006	
M63	48	5	58	GND	NMOS	L=4e-007	W=2.4e-006	
M64	7	3	47	GND	NMOS	L=4e-007	W=2.4e-006	
M65	GND	4	58	GND	NMOS	L=4e-007	W=2.4e-006	
M66	47	14	GND	GND	NMOS	L=4e-007	W=2.4e-006	
M67	27	48	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M68	13	7	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M69	6	27	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M7	VDD	13	23	VDD	PMOS	L=4e-007	W=2.4e-006	
M70	14	29	49	GND	NMOS	L=4e-007	W=4.8e-006	
M71	16	6	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M72	49	3	GND	GND	NMOS	L=4e-007	W=4.8e-006	
M73	28	8	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M74	29	7	GND	GND	NMOS	L=4e-007	W=2.4e-006	
M75	30	28	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M76	8	7	51	GND	NMOS	L=4e-007	W=2.4e-006	
M77	31	30	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M78	51	15	GND	GND	NMOS	L=4e-007	W=2.4e-006	
M79	32	31	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M8	VDD	CLK	12	VDD	PMOS	L=4e-007	W=1.2e-006	
M80	9	8	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M81	33	32	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M82	34	33	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M83	15	37	52	GND	NMOS	L=4e-007	W=4.8e-006	
M84	52	7	GND	GND	NMOS	L=4e-007	W=4.8e-006	
M85	35	34	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M86	O_CLK	35	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M87	37	8	GND	GND	NMOS	L=4e-007	W=2.4e-006	
M88	38	C2	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M89	39	16	54	GND	NMOS	L=4e-007	W=2.4e-006	
M9	VDD	C1	24	VDD	PMOS	L=4e-007	W=2.4e-006	
M90	54	18	GND	GND	NMOS	L=4e-007	W=2.4e-006	
M91	GND	38	59	GND	NMOS	L=4e-007	W=2.4e-006	
M92	19	8	59	GND	NMOS	L=4e-007	W=2.4e-006	
M93	D_CLK	39	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M94	GND	C2	60	GND	NMOS	L=4e-007	W=2.4e-006	
M95	18	42	55	GND	NMOS	L=4e-007	W=4.8e-006	
M96	20	9	60	GND	NMOS	L=4e-007	W=2.4e-006	
M97	55	16	GND	GND	NMOS	L=4e-007	W=4.8e-006	
M98	41	19	61	GND	NMOS	L=4e-007	W=2.4e-006	
M99	42	41	GND	GND	NMOS	L=4e-007	W=2.4e-006	

**********************************************************************
**  End of device list
**********************************************************************
