* **********************************************************

**********************************************************************
**	MyChip Station MyLVS Pro 2017
**	Copyright(c) 1992-2017 MyCAD, Inc.
**			
**********************************************************************

*.GLOBAL C0 C1 C2 CLK D_CLK GND:G O_CLK VDD:P 

**********************************************************************
**  Beginning of device list
**********************************************************************

MT_I0_I0_I0	VDD	T_I0_I0_OUT1	T_I0_I0_I0_PNS	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I0_I1	T_I0_I0_I2_NNS	CLK	GND	GND	NMOS	L=4e-007	W=4.8e-006	
MT_I0_I0_I12_I0	I0_A0	T_I0_I0_OUT1	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I0_I0_I12_I1	VDD	T_I0_I0_OUT1	I0_A0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I0_I15	T_I0_I0_I0_PNS	CLK	T_I0_I0_I2_NNG	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I0_I16	VDD	CLK	T_I0_I0_I3_PNG	VDD	PMOS	L=4e-007	W=1.2e-006	
MT_I0_I0_I19	T_I0_I0_I2_NNG	T_I0_I0_OUT1	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I0_I0_I2	T_I0_I0_I3_PNG	T_I0_I0_I2_NNG	T_I0_I0_I2_NNS	GND	NMOS	L=4e-007	W=4.8e-006	
MT_I0_I0_I20	T_I0_I0_I21_NNS	T_I0_I0_I3_PNG	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I0_I0_I21	T_I0_I0_OUT1	CLK	T_I0_I0_I21_NNS	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I0_I0_I3	VDD	T_I0_I0_I3_PNG	T_I0_I0_OUT1	VDD	PMOS	L=4e-007	W=7.2e-006	
MT_I0_I1_I0	VDD	T_I0_I1_OUT1	T_I0_I1_I0_PNS	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I1_I1	T_I0_I1_I2_NNS	T_I0_I0_OUT1	GND	GND	NMOS	L=4e-007	W=4.8e-006	
MT_I0_I1_I12_I0	I0_A1	T_I0_I1_OUT1	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I0_I1_I12_I1	VDD	T_I0_I1_OUT1	I0_A1	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I1_I15	T_I0_I1_I0_PNS	T_I0_I0_OUT1	T_I0_I1_I2_NNG	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I1_I16	VDD	T_I0_I0_OUT1	T_I0_I1_I3_PNG	VDD	PMOS	L=4e-007	W=1.2e-006	
MT_I0_I1_I19	T_I0_I1_I2_NNG	T_I0_I1_OUT1	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I0_I1_I2	T_I0_I1_I3_PNG	T_I0_I1_I2_NNG	T_I0_I1_I2_NNS	GND	NMOS	L=4e-007	W=4.8e-006	
MT_I0_I1_I20	T_I0_I1_I21_NNS	T_I0_I1_I3_PNG	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I0_I1_I21	T_I0_I1_OUT1	T_I0_I0_OUT1	T_I0_I1_I21_NNS	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I0_I1_I3	VDD	T_I0_I1_I3_PNG	T_I0_I1_OUT1	VDD	PMOS	L=4e-007	W=7.2e-006	
MT_I0_I2_I0	VDD	I0_A2B	T_I0_I2_I0_PNS	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I2_I1	T_I0_I2_I2_NNS	T_I0_I1_OUT1	GND	GND	NMOS	L=4e-007	W=4.8e-006	
MT_I0_I2_I12_I0	I0_A2	I0_A2B	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I0_I2_I12_I1	VDD	I0_A2B	I0_A2	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I2_I15	T_I0_I2_I0_PNS	T_I0_I1_OUT1	T_I0_I2_I2_NNG	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I2_I16	VDD	T_I0_I1_OUT1	T_I0_I2_I3_PNG	VDD	PMOS	L=4e-007	W=1.2e-006	
MT_I0_I2_I19	T_I0_I2_I2_NNG	I0_A2B	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I0_I2_I2	T_I0_I2_I3_PNG	T_I0_I2_I2_NNG	T_I0_I2_I2_NNS	GND	NMOS	L=4e-007	W=4.8e-006	
MT_I0_I2_I20	T_I0_I2_I21_NNS	T_I0_I2_I3_PNG	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I0_I2_I21	I0_A2B	T_I0_I1_OUT1	T_I0_I2_I21_NNS	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I0_I2_I3	VDD	T_I0_I2_I3_PNG	I0_A2B	VDD	PMOS	L=4e-007	W=7.2e-006	
MT_I1_I10_I0_I0	T_I1_I10_I0_OUT0	I0_A1	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I1_I10_I0_I1	VDD	I0_A1	T_I1_I10_I0_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I1_I10_I1_I0	T_I1_I10_I1_OUT0	C1	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I1_I10_I1_I1	VDD	C1	T_I1_I10_I1_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I1_I10_I2_I13	T_I1_I10_OUT0	I0_A1	T_I1_I10_I1_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I1_I10_I2_I14	T_I1_I10_I1_OUT0	T_I1_I10_I0_OUT0	T_I1_I10_OUT0	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I1_I10_I4_I13	T_I1_I10_OUT0	T_I1_I10_I0_OUT0	C1	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I1_I10_I4_I14	C1	I0_A1	T_I1_I10_OUT0	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I1_I11_I0	VDD	T_I1_I4_OUT0	T_I1_I11_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I1_I11_I3	T_I1_I11_I8_NNS	T_I1_I4_OUT0	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I1_I11_I7	VDD	T_I1_I10_OUT0	T_I1_I11_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I1_I11_I8	T_I1_I11_OUT0	T_I1_I10_OUT0	T_I1_I11_I8_NNS	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I1_I12_I0	I1_OUT0	T_I1_I11_OUT0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I1_I12_I1	VDD	T_I1_I11_OUT0	I1_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I1_I4_I0_I0	T_I1_I4_I0_OUT0	I0_A0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I1_I4_I0_I1	VDD	I0_A0	T_I1_I4_I0_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I1_I4_I1_I0	T_I1_I4_I1_OUT0	C0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I1_I4_I1_I1	VDD	C0	T_I1_I4_I1_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I1_I4_I2_I13	T_I1_I4_OUT0	I0_A0	T_I1_I4_I1_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I1_I4_I2_I14	T_I1_I4_I1_OUT0	T_I1_I4_I0_OUT0	T_I1_I4_OUT0	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I1_I4_I4_I13	T_I1_I4_OUT0	T_I1_I4_I0_OUT0	C0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I1_I4_I4_I14	C0	I0_A0	T_I1_I4_OUT0	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I2_I34_I0	T_I2_I34_OUT0	I1_OUT0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I2_I34_I1	VDD	I1_OUT0	T_I2_I34_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I2_I35_I0	I2_OUT0	T_I2_I34_OUT0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I2_I35_I1	VDD	T_I2_I34_OUT0	I2_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I33_I0	VDD	I4_OUT0	T_I33_I0_PNS	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I33_I1	T_I33_I2_NNS	I2_OUT0	GND	GND	NMOS	L=4e-007	W=4.8e-006	
MT_I33_I12_I0	D_CLK	T_I33_OUT1	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I33_I12_I1	VDD	T_I33_OUT1	D_CLK	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I33_I15	T_I33_I0_PNS	I2_OUT0	T_I33_I2_NNG	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I33_I16	VDD	I2_OUT0	T_I33_I3_PNG	VDD	PMOS	L=4e-007	W=1.2e-006	
MT_I33_I19	T_I33_I2_NNG	I4_OUT0	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I33_I2	T_I33_I3_PNG	T_I33_I2_NNG	T_I33_I2_NNS	GND	NMOS	L=4e-007	W=4.8e-006	
MT_I33_I20	T_I33_I21_NNS	T_I33_I3_PNG	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I33_I21	T_I33_OUT1	I2_OUT0	T_I33_I21_NNS	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I33_I3	VDD	T_I33_I3_PNG	T_I33_OUT1	VDD	PMOS	L=4e-007	W=7.2e-006	
MT_I3_I34_I0	T_I3_I34_OUT0	I0_A2B	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I3_I34_I1	VDD	I0_A2B	T_I3_I34_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I3_I35_I0	I3_OUT0	T_I3_I34_OUT0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I3_I35_I1	VDD	T_I3_I34_OUT0	I3_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I4_I0_I0	T_I4_I0_OUT0	C2	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I4_I0_I1	VDD	C2	T_I4_I0_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I4_I3_I0	VDD	I0_A2B	T_I4_I3_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I4_I3_I3	T_I4_I3_I8_NNS	I0_A2B	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I4_I3_I7	VDD	T_I4_I0_OUT0	T_I4_I3_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I4_I3_I8	T_I4_I3_OUT0	T_I4_I0_OUT0	T_I4_I3_I8_NNS	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I4_I4_I0	VDD	C2	T_I4_I4_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I4_I4_I3	T_I4_I4_I8_NNS	C2	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I4_I4_I7	VDD	I0_A2	T_I4_I4_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I4_I4_I8	T_I4_I4_OUT0	I0_A2	T_I4_I4_I8_NNS	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I4_I5_I0	VDD	T_I4_I3_OUT0	I4_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I4_I5_I3	T_I4_I5_I8_NNS	T_I4_I3_OUT0	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I4_I5_I7	VDD	T_I4_I4_OUT0	I4_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I4_I5_I8	I4_OUT0	T_I4_I4_OUT0	T_I4_I5_I8_NNS	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I5_I34_I0	T_I5_I34_OUT0	I3_OUT0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I5_I34_I1	VDD	I3_OUT0	T_I5_I34_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I5_I35_I0	I5_OUT0	T_I5_I34_OUT0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I5_I35_I1	VDD	T_I5_I34_OUT0	I5_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I6_I34_I0	T_I6_I34_OUT0	I5_OUT0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I6_I34_I1	VDD	I5_OUT0	T_I6_I34_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I6_I35_I0	I6_OUT0	T_I6_I34_OUT0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I6_I35_I1	VDD	T_I6_I34_OUT0	I6_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I8_I34_I0	T_I8_I34_OUT0	I6_OUT0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I8_I34_I1	VDD	I6_OUT0	T_I8_I34_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I8_I35_I0	O_CLK	T_I8_I34_OUT0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I8_I35_I1	VDD	T_I8_I34_OUT0	O_CLK	VDD	PMOS	L=4e-007	W=2.4e-006	

**********************************************************************
**  End of device list
**********************************************************************
