***************************************************************************
**            MyChip Station MyLVS Pro 2017
**            Copyright(c) 1992-2017 MyCAD, Inc. 
**            MyLVS Pro Reduction Result File.
***************************************************************************

* Source = C:\MyCADPro\MyCAD example\Layout\work\sanghun._00\TOP_p1.net

.GLOBAL	C0 C1 C2 CLK D_CLK 
.GLOBAL	GND O_CLK VDD 

INV	O_CLK 35	26.3	-6.7
INV	D_CLK 39	36.1	12.1
INV	2 11	-20.1	-6.7
INV	11 3	-14.9	12.1
INV	13 7	2.1	12.1
INV	24 C1	-10.3	-6.7
NAND	20 9 C2	39.7	-6.7
INV	23 13	-11.9	-6.7
NAND	48 4 5	-1.9	-6.7
INV	27 48	1.3	-6.7
INV	6 27	4.7	-6.7
INV	16 6	6.3	-6.7
INV	28 8	9.7	-6.7
INV	30 28	11.3	-6.7
INV	31 30	14.7	-6.7
INV	32 31	16.3	-6.7
INV	9 8	19.1	12.1
INV	21 C0	-18.5	-6.7
INV	33 32	19.7	-6.7
INV	34 33	21.3	-6.7
INV	35 34	24.7	-6.7
INV	38 C2	29.7	-6.7
NAND	19 38 8	33.1	-6.7
NAND	41 19 20	43.1	-6.7
SUP	26 CLK 3	-6.5	12.1
SUP	29 3 7	10.5	12.1
SUP	37 7 8	27.5	12.1
SUP	42 16 41	44.5	12.1
SDW	3 CLK 12	-20.1	4.1
SDW	12 26 CLK	-11.5	4.1
SDW	7 3 14	-3.1	4.1
SDW	14 29 3	5.5	4.1
SDW	8 7 15	13.9	4.1
SDW	15 37 7	22.5	4.1
SDW	39 16 18	30.9	4.1
SDW	18 42 16	39.5	4.1
M99	42	41	GND	GND	NMOS	W=2.40U L=400.00N	44.5	4.1
M87	37	8	GND	GND	NMOS	W=2.40U L=400.00N	27.5	4.1
M8	VDD	CLK	12	VDD	PMOS	W=1.20U L=400.00N	-11.5	13.3
M74	29	7	GND	GND	NMOS	W=2.40U L=400.00N	10.5	4.1
M62	26	3	GND	GND	NMOS	W=2.40U L=400.00N	-6.5	4.1
M61	5	13	C1	GND	NMOS	W=1.20U L=400.00N	-7.1	0.1
M60	5	23	24	GND	NMOS	W=1.20U L=400.00N	-8.7	0.1
M54	4	11	C0	GND	NMOS	W=1.20U L=400.00N	-15.3	0.1
M53	4	2	21	GND	NMOS	W=1.20U L=400.00N	-16.9	0.1
M5	4	2	C0	VDD	PMOS	W=2.40U L=400.00N	-15.3	-6.7
M43	VDD	16	18	VDD	PMOS	W=1.20U L=400.00N	39.5	13.3
M4	4	11	21	VDD	PMOS	W=2.40U L=400.00N	-16.9	-6.7
M38	VDD	18	39	VDD	PMOS	W=7.20U L=400.00N	30.9	9.3
M32	VDD	7	15	VDD	PMOS	W=1.20U L=400.00N	22.5	13.3
M26	VDD	15	8	VDD	PMOS	W=7.20U L=400.00N	13.9	9.3
M20	VDD	3	14	VDD	PMOS	W=1.20U L=400.00N	5.5	13.3
M2	VDD	12	3	VDD	PMOS	W=7.20U L=400.00N	-20.1	9.3
M15	VDD	14	7	VDD	PMOS	W=7.20U L=400.00N	-3.1	9.3
M12	5	23	C1	VDD	PMOS	W=2.40U L=400.00N	-7.1	-6.7
M10	5	13	24	VDD	PMOS	W=2.40U L=400.00N	-8.7	-6.7
