***************************************************************************
**            MyChip Station MyLVS Pro 2017
**            Copyright(c) 1992-2017 MyCAD, Inc. 
**            MyLVS Pro Reduction Result File.
***************************************************************************

* Source = C:\MyCADPro\MyCAD example\Layout\work\sanghun._00\TOP_p2.net

.GLOBAL	C0 C1 C2 CLK D_CLK 
.GLOBAL	GND O_CLK VDD 

INV	O_CLK T_I8_I34_OUT0	0	0
INV	D_CLK T_I33_OUT1	0	0
INV	I0_A0 T_I0_I0_OUT1	0	0
INV	I0_A1 T_I0_I1_OUT1	0	0
INV	I0_A2 I0_A2B	0	0
INV	T_I1_I10_I0_OUT0 I0_A1	0	0
INV	T_I1_I10_I1_OUT0 C1	0	0
NAND	T_I1_I11_OUT0 T_I1_I10_OUT0 T_I1_I4_OUT0	0	0
INV	I1_OUT0 T_I1_I11_OUT0	0	0
INV	T_I1_I4_I0_OUT0 I0_A0	0	0
INV	T_I1_I4_I1_OUT0 C0	0	0
INV	T_I2_I34_OUT0 I1_OUT0	0	0
INV	I2_OUT0 T_I2_I34_OUT0	0	0
NAND	I4_OUT0 T_I4_I3_OUT0 T_I4_I4_OUT0	0	0
INV	T_I3_I34_OUT0 I0_A2B	0	0
INV	I3_OUT0 T_I3_I34_OUT0	0	0
INV	T_I4_I0_OUT0 C2	0	0
NAND	T_I4_I3_OUT0 I0_A2B T_I4_I0_OUT0	0	0
NAND	T_I4_I4_OUT0 C2 I0_A2	0	0
INV	T_I5_I34_OUT0 I3_OUT0	0	0
INV	I5_OUT0 T_I5_I34_OUT0	0	0
INV	T_I6_I34_OUT0 I5_OUT0	0	0
INV	I6_OUT0 T_I6_I34_OUT0	0	0
INV	T_I8_I34_OUT0 I6_OUT0	0	0
SUP	T_I0_I0_I2_NNG CLK T_I0_I0_OUT1	0	0
SDW	T_I0_I0_I3_PNG T_I0_I0_I2_NNG CLK	0	0
SDW	T_I0_I0_OUT1 CLK T_I0_I0_I3_PNG	0	0
SUP	T_I0_I1_I2_NNG T_I0_I0_OUT1 T_I0_I1_OUT1	0	0
SDW	T_I0_I1_I3_PNG T_I0_I1_I2_NNG T_I0_I0_OUT1	0	0
SDW	T_I0_I1_OUT1 T_I0_I0_OUT1 T_I0_I1_I3_PNG	0	0
SUP	T_I0_I2_I2_NNG T_I0_I1_OUT1 I0_A2B	0	0
SDW	T_I0_I2_I3_PNG T_I0_I2_I2_NNG T_I0_I1_OUT1	0	0
SDW	I0_A2B T_I0_I1_OUT1 T_I0_I2_I3_PNG	0	0
SUP	T_I33_I2_NNG I2_OUT0 I4_OUT0	0	0
SDW	T_I33_I3_PNG T_I33_I2_NNG I2_OUT0	0	0
SDW	T_I33_OUT1 I2_OUT0 T_I33_I3_PNG	0	0
MT_I33_I3	VDD	T_I33_I3_PNG	T_I33_OUT1	VDD	PMOS	W=7.20U L=400.00N	0	0
MT_I33_I19	T_I33_I2_NNG	I4_OUT0	GND	GND	NMOS	W=2.40U L=400.00N	0	0
MT_I33_I16	VDD	I2_OUT0	T_I33_I3_PNG	VDD	PMOS	W=1.20U L=400.00N	0	0
MT_I1_I4_I4_I14	C0	I0_A0	T_I1_I4_OUT0	GND	NMOS	W=1.20U L=400.00N	0	0
MT_I1_I4_I4_I13	T_I1_I4_OUT0	T_I1_I4_I0_OUT0	C0	VDD	PMOS	W=2.40U L=400.00N	0	0
MT_I1_I4_I2_I14	T_I1_I4_I1_OUT0	T_I1_I4_I0_OUT0	T_I1_I4_OUT0	GND	NMOS	W=1.20U L=400.00N	0	0
MT_I1_I4_I2_I13	T_I1_I4_OUT0	I0_A0	T_I1_I4_I1_OUT0	VDD	PMOS	W=2.40U L=400.00N	0	0
MT_I1_I10_I4_I14	C1	I0_A1	T_I1_I10_OUT0	GND	NMOS	W=1.20U L=400.00N	0	0
MT_I1_I10_I4_I13	T_I1_I10_OUT0	T_I1_I10_I0_OUT0	C1	VDD	PMOS	W=2.40U L=400.00N	0	0
MT_I1_I10_I2_I14	T_I1_I10_I1_OUT0	T_I1_I10_I0_OUT0	T_I1_I10_OUT0	GND	NMOS	W=1.20U L=400.00N	0	0
MT_I1_I10_I2_I13	T_I1_I10_OUT0	I0_A1	T_I1_I10_I1_OUT0	VDD	PMOS	W=2.40U L=400.00N	0	0
MT_I0_I2_I3	VDD	T_I0_I2_I3_PNG	I0_A2B	VDD	PMOS	W=7.20U L=400.00N	0	0
MT_I0_I2_I19	T_I0_I2_I2_NNG	I0_A2B	GND	GND	NMOS	W=2.40U L=400.00N	0	0
MT_I0_I2_I16	VDD	T_I0_I1_OUT1	T_I0_I2_I3_PNG	VDD	PMOS	W=1.20U L=400.00N	0	0
MT_I0_I1_I3	VDD	T_I0_I1_I3_PNG	T_I0_I1_OUT1	VDD	PMOS	W=7.20U L=400.00N	0	0
MT_I0_I1_I19	T_I0_I1_I2_NNG	T_I0_I1_OUT1	GND	GND	NMOS	W=2.40U L=400.00N	0	0
MT_I0_I1_I16	VDD	T_I0_I0_OUT1	T_I0_I1_I3_PNG	VDD	PMOS	W=1.20U L=400.00N	0	0
MT_I0_I0_I3	VDD	T_I0_I0_I3_PNG	T_I0_I0_OUT1	VDD	PMOS	W=7.20U L=400.00N	0	0
MT_I0_I0_I19	T_I0_I0_I2_NNG	T_I0_I0_OUT1	GND	GND	NMOS	W=2.40U L=400.00N	0	0
MT_I0_I0_I16	VDD	CLK	T_I0_I0_I3_PNG	VDD	PMOS	W=1.20U L=400.00N	0	0
